US06110913
A mixture of 2-piperazinecarboxylic acid dihydrochloride (5.06 g, 0.025 mol), ethanol (100 ml) and concentrated sulphuric acid (6.0 ml) was heated at reflux temperature for 6 days. Toluene (10 ml) was added, and the resulting mixture was concentrated in vacuo to 213 of its original volume. Cold, saturated aqueous potassium carbonate (80 ml) was added and the mixture was extracted with toluene (3×100 ml). The combined organic extracts were washed with brine (30 ml), dried (MgSO4) and concentrated in vacuc, affording 1.0 g (26%) of 2-piperazinecarboxylic acid ethyl ester as an oil. The oil crystallised upon standing at room temperature.

reactant | 2-piperazinecarboxylic acid dihydrochloride | 0.025 mol, 5.06 g | Cl.Cl.N1C(CNCC1)C(=O)O
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | sulphuric acid | 6.0 ml | S(O)(O)(=O)=O | H2O4S
solvent | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-piperazinecarboxylic acid ethyl ester | 1.0 g, 26% | C(C)OC(=O)C1NCCNC1 | C7H14N2O2
